US07714009B2
N2-Mesityl-4-methyl-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine
To a mixture of 1-(5-dipropylamino-2-methylphenyl)-3-mesitylthiourea (100 mg, 0.261 mmol) in carbon tetrachloride (10 ml) was added dropwise bromine (0.015 ml, 0.287 mmol) in carbon tetrachloride (5 ml) over 30 min. The mixture was refluxed for 18 h and diluted with water. The aqueous solution was extracted with dichloromethane. The extract was washed with water and brine and concentrated under vacuum. The residue was purified by chromatography eluting with 10% AcOEt in n-hexane to afford 39 mg of the title compound.

reactant | 1-(5-dipropylamino-2-methylphenyl)-3-mesitylthiourea | 0.261 mmol, 100 mg | C(CC)N(C=1C=CC(=C(C1)NC(=S)NC1=C(C=C(C=C1C)C)C)C)CCC | C23H33N3S
reactant | bromine | 0.287 mmol, 0.015 ml | BrBr | Br2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | N2-Mesityl-4-methyl-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine | 39 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C(=CC=C2N(CCC)CCC)C)C | C23H31N3S
